*****************************************************************
* NXP PSMN2R9-30MLC
*
* Polarity N-Channel
* Ratings 30V/2.950000E-003OHMS/70A
*
* Date Created Tue Jun 12 05:23:38 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R9-30MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.3e-10
RLS2 SOURCE 8 0.578053048260522
RLS1 8 7 0.00022

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00176897394968838 TC=0.00559709337694705,4.88560758825955E-06
RBD 9 4 0.00335182900748995 TC=0.00559709337694705,4.88560758825955E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 2.04990115748311e-09
RG 1 2 2.43991376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1190.42
+ -10	1189.56
+ -8	1188.25
+ -6	1185.8
+ -5	1183.45
+ -4	1178.62
+ -3	1165.26
+ -2	1091.07
+ -1	1479.56
+ -0.5	1230.03
+ -0.2	1079.24
+ -0.1	982.086
+ 0	869.4695
+ 0.1	744.037
+ 0.2	650.262
+ 0.5	551.326
+ 1	449.653
+ 2	351.84
+ 3	305.661
+ 4	275.827
+ 5	255.177
+ 6	240.203
+ 8	218.217
+ 10	203.663
+ 12	192.756
+ 15	180.268
+ 20	166.54



.MODEL MINT NMOS(Vto=2.2533608509248 Kp=3.973266e+002 Nfs=400000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.27984654698316e-12
+ N=1 M=0.730000000000001 VJ=0.99 Fc=0.5 Cjo=2.466504e-09 Tt=2.187732e-08)

.ENDS

